US07618975B2
(2-Methyl-quinazolin-4-yl)-(pyridin-4-yl)-methyl-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (0.178 g, 2.13 mmol) and (pyridin-4-yl)-methyl-amine (0.108 g, 1.84 mmol) by a procedure similar to examples 125c (0.224 g, 49%). 1H NMR (CDCl3): 8.39 (m, 2H), 7.91 (d, J=8.4, 1H), 7.73 (ddd, J=1.2, 6.6, 8.4, 1H), 7.41 (m, 1H), 7.23-7.29 (m, 1H), 6.79-6.82 (m, 2H), 3.70 (s, 3H), 2.83 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | 2.13 mmol, 0.178 g | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | (pyridin-4-yl)-methyl-amine | 1.84 mmol, 0.108 g | N1=CC=C(C=C1)NC | C6H8N2
product | (2-Methyl-quinazolin-4-yl)-(pyridin-4-yl)-methyl-amine | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=NC=C1 | C15H14N4
